US05436261
Stage A: 2-Benzylamino-3,4-dihydronaphthalene
A mixture containing 171 mmol of-tetralone, 181 mmol of benzylamine and 100 mg of p-toluenesulfonic acid is brought to reflux with azeotropic distillation of the water/toluene mixture. After 2 hours of distillation, the medium is cooled and filtered. The expected product is obtained in the form of an oil after evaporation of the solvent.

reactant | tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | benzylamine | 181 mmol | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water toluene | O.C1(=CC=CC=C1)C
product | 2-Benzylamino-3,4-dihydronaphthalene | C(C1=CC=CC=C1)NC1=CC2=CC=CC=C2CC1 | C17H17N
